US04871841
(A) (Tetrahydro-2-oxo-1(2H)-pyrimidinyl)carbamic acid, phenylmethyl ester
3-Aminotetrahydro-2(1H)-pyrimidinone, monohydrochloride (30 g, 0.198 mol) was dissolved in a mixture of 240 ml water and 200 ml tetrahydrofuran. The pH was adjusted to 8.5 and benzylchloroformate (33.8 g, 0.198 mmol) was added dropwise while keeping the pH between 8 and 9. After the pH remained constant, the mixture was stirred for an additional hour. The tetrahydrofuran was removed in vacuo and the resulting crystals were filtered off with suction, triturated with ether and dried in vacuo. Yield 35.6 g, melting point 161°-163° C.

reactant | 3-Aminotetrahydro-2(1H)-pyrimidinone, monohydrochloride | 0.198 mol, 30 g | Cl.NN1C(NCCC1)=O
reactant | benzylchloroformate | 0.198 mmol, 33.8 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 240 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (Tetrahydro-2-oxo-1(2H)-pyrimidinyl)carbamic acid, phenylmethyl ester | O=C1N(CCCN1)NC(OCC1=CC=CC=C1)=O | C12H15N3O3
